US07338973B2
Methanesulfonic acid 11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-yl ester
A mixture of 8-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol (35, mg, 0.131 mmol), CH3SO2Cl (15 μL, 0.197 mmol, 1.5 eq.), pyridine (20 mg, 0.262 mmol, 2.0 eq.) in CH2Cl2 (1 mL) was stirred at 25° C. for 2 hours. The mixture was then partitioned between CH2Cl2 and saturated NaHCO3 aqueous solution. The aqueous layer was extracted three times with CH2Cl2. The combined organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated to yield crude material. The crude material was purified by chromatography to yield the title compound as a white solid.

reactant | 8-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol | CC1(CC=2C=3CSC4=C(C3NC2C=C1)C=CC=C4)O | C16H15NOS
reactant | CH3SO2Cl | 0.197 mmol, 15 μL, 1.5 eq. | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.262 mmol, 20 mg, 2.0 eq. | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-yl ester | CN1C2=CC=C(C=C2C=2CSC3=C(C12)C=CC=C3)OS(=O)(=O)C | C17H15NO3S2
